US05326838
After 24 hours, the reaction was stopped by adding a stoichiometric quantity of 2,6-ditert-butyl-p-cresol and 0.5 phr added as an anti-oxidising agent. Butadiene-styrene copolymers were obtained by precipitation in isopropyl alcohol, and the structural and composition parameters thereof are given in Table III. Copolymerisation was practically random, as is deduced from the fact that no residue through degradative oxidation of the samples with hydroperoxide was observed during the analysis.

reactant | 2,6-ditert-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | Butadiene styrene | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
